US08049016B2
To a solution of 1-(5-acetyl-4-methylthiazol-2-yl)imidazolidin-2-one (4.50 g, 20.00 mmol), tetrabutylammonium iodide (0.10 g) and potassium carbonate (4.00 g, 28.92 mmol) in 1,4-dioxane (100 mL) was added 2-cyclopropylethyl-4-methylbenzenesulfonate (6.00 g, 24.96 mmol). The reaction mixture was heated to reflux for 37 h. The solvent was removed in vacuo. The residue was dissolved in water (50 mL) and extracted with ethyl acetate. The organic solution washed with water and brine and dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo and the residue was purified by column chromatography to afford 1-(5-acetyl-4-methylthiazol-2-yl)-3-(2-cyclopropylethyl)imidazolidin-2-one in 37% yield (2.20 g): mp 82-83° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 4.12-4.06 (m, 2H), 3.63-3.57 (m, 2H), 3.40 (t, J=7.2 Hz, 2H), 2.60 (s, 3H), 2.44 (s, 3H), 1.51-1.44 (m, 2H), 0.71-0.62 (m, 1H), 0.49-0.43 (m, 2H), 0.09-0.04 (m, 2H); MS (ES+) m/z 294.2 (M+1).

reactant | 1-(5-acetyl-4-methylthiazol-2-yl)imidazolidin-2-one | 20.00 mmol, 4.50 g | C(C)(=O)C1=C(N=C(S1)N1C(NCC1)=O)C | C9H11N3O2S
reactant | potassium carbonate | 28.92 mmol, 4.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-cyclopropylethyl-4-methylbenzenesulfonate | 24.96 mmol, 6.00 g | C1(CC1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C12H16O3S
catalyst | tetrabutylammonium iodide | 0.10 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 1-(5-acetyl-4-methylthiazol-2-yl)-3-(2-cyclopropylethyl)imidazolidin-2-one | 37% yield | C(C)(=O)C1=C(N=C(S1)N1C(N(CC1)CCC1CC1)=O)C | C14H19N3O2S
